US07741315B2
Step 4: 9-(3-Chloro-4-fluorobenzyl)-7-hydroxy-3-(acetyloxymethyl)-3,4,10,11-tetrahydro[1,4]oxazino[3,4-a]-2,6-naphthyridine-1,6,8(9H)-trione
A mixture of 9-(3-chloro-4-fluorobenzyl)-3-(hydroxymethyl)-7-methoxy-3,4,10,11-tetrahydro[1,4]oxazino[3,4-a]-2,6-naphthyridine-1,6,8(9H)-trione (50 mg, 0.11 mmol) and 33% hydrogen bromide in acetic acid (0.1 g) in acetic acid (1 μL) was stirred at room temperature for 30 minutes. The product mixture was concentrated under vacuum. The residue was dissolved in DMSO and subjected to reverse phase column chromatography on C-18 stationary phase eluted with a 95-5% water-acetonitrile gradient. Collection and lyophilization of appropriate fractions afforded the title compound.

reactant | 9-(3-chloro-4-fluorobenzyl)-3-(hydroxymethyl)-7-methoxy-3,4,10,11-tetrahydro[1,4]oxazino[3,4-a]-2,6-naphthyridine-1,6,8(9H)-trione | 0.11 mmol, 50 mg | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(OC(C4)CO)=O)=O)OC)=O)C=CC1F | C20H18ClFN2O6
reactant | hydrogen bromide | Br | BrH
reactant | acetic acid | 0.1 g | C(C)(=O)O | C2H4O2
reactant | acetic acid | 1 μL | C(C)(=O)O | C2H4O2
product | 9-(3-Chloro-4-fluorobenzyl)-7-hydroxy-3-(acetyloxymethyl)-3,4,10,11-tetrahydro[1,4]oxazino[3,4-a]-2,6-naphthyridine-1,6,8(9H)-trione | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(OC(C4)COC(C)=O)=O)=O)O)=O)C=CC1F | C21H18ClFN2O7
